US20010007873A1
A. 1-(3-Benzyloxy-phenyl)-cyclobutanol
In a flame-dried flask was placed magnesium and under a N2 atmosphere added a solution of 1-bromo-3-benzyloxy-benzene (10.53 g, 40 mmol) in 30 ml of anhydrous ethyl ether. A resultant mixture was heated to reflux for 8 hours. The reaction mixture was then cooled to 0°C. followed by a dropwise addition of cyclobutanone (J.A.C.S., 90, 3404-3415,1968) (2.96 ml, 40 mmol) in 10 ml of anhydrous ethyl ether. The reaction was stirred at room temperature for 30 minutes and then cooled to 0°C. and hydrolyzed with aqueous ammonium chloride (NH4Cl) (20 ml). The organic extract was dried (MgSO4) and concentrated in vacuo. The crude product was chromatographed on 300 g silica gel using hexanes-ethyl acetate 3:1 to afford 8.5 g (84%) of the title compound as a yellow oil.

reactant | magnesium | [Mg] | Mg
reactant | 1-bromo-3-benzyloxy-benzene | 40 mmol, 10.53 g | BrC1=CC(=CC=C1)OCC1=CC=CC=C1 | C13H11BrO
reactant | cyclobutanone | 40 mmol, 2.96 ml | C1(CCC1)=O | C4H6O
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | ethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 10 ml | C(C)OCC | C4H10O
product | 1-(3-Benzyloxy-phenyl)-cyclobutanol | 8.5 g, 84% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(CCC1)O | C17H18O2
